US08957069B2
1-(4-Methoxy-3-methylphenyl)-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
To the toluene (3.1 mL) solution of 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (400 mg, 1.54 mmol) synthesized in Reference example 56, 4-bromo-1-methoxy-2-methylbenzene (464 mg, 2.31 mmol), palladium acetate (17 mg, 0.077 mmol), BINAP (143 mg, 0.231 mmol) and sodium tert-butoxide (296 mg, 3.08 mmol) were added and irradiated with microwave. The mixture was reacted for 15 minutes at 150° C. To the mixture solution, water was added and extracted with ethyl acetate. The extract solution was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate 85:15). The resulting solid was recrystallized from ethanol to obtain the title compound 114 mg (yield 19%). Melting point was 141 to 142° C. (ethanol).

reactant | 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.54 mmol, 400 mg | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C | C16H24N2O
reactant | 4-bromo-1-methoxy-2-methylbenzene | 2.31 mmol, 464 mg | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
reactant | BINAP | 0.231 mmol, 143 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 3.08 mmol, 296 mg | CC(C)([O-])C.[Na+]
catalyst | palladium acetate | 0.077 mmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | 3.1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Methoxy-3-methylphenyl)-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 114 mg, yield 19% | COC1=C(C=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)C)C)C | C24H32N2O2
